US06967204B2
Oxalyl chloride (7.65 ml, 87.7 mmol) was added dropwise to a suspension of 5-isopropyl-4-nitro-1H-pyrazol-3-carboxylic acid (6.58 g, 29.2 mmol) in dichloromethane (100 ml) containing dimethylformamide (0.5 ml) under nitrogen at 0° C. The reaction was stirred at 0° C. for 1 hours, allowed to warm to room temperature and stirred for a further 2 hours. The solvent was removed under reduced pressure, the residue was azeotroped with dichloromethane (2×50 ml) and dissolved in toluene (100 ml). Ammonia gas was bubbled into the solution for 2 hours and the reaction was stirred under nitrogen at room temperature for 18 hours, concentrated under reduced pressure and purified by flash column chromatography on silica gel eluting with a solvent gradient of dichloromethane:methanol (95:5 changing to 90:10, by volume) to give 5-cyclopentyl-4-nitro-1H-pyrazol-3-carboxylic acid amide (5.48 g) as a yellow solid. 1H NMR (400 MHz, DMSO-D6): δ=13.67-13.79 (1H, brs), 7.88-8.03 (1H, brs), 7.59-7.77 (1H, brs), 3.46-3.60 (1H, quin), 1.97-2.11 (2H, m), 1.58-1.81 (6H, 2×m) ppm. LRMS (electrospray): m/z [M−H]+ 223, [2M−H]+ 447. Anal. Found C, 56.12; H, 7.39; N, 27.55. C9H12N4O3. 0.2 mol acetone requires C, 56.01; H, 7.44; N, 27.22%.

reactant | Oxalyl chloride | 87.7 mmol, 7.65 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-isopropyl-4-nitro-1H-pyrazol-3-carboxylic acid | 29.2 mmol, 6.58 g | C(C)(C)C1=C(C(=NN1)C(=O)O)[N+](=O)[O-] | C7H9N3O4
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-cyclopentyl-4-nitro-1H-pyrazol-3-carboxylic acid amide | 5.48 g | C1(CCCC1)C1=C(C(=NN1)C(=O)N)[N+](=O)[O-] | C9H12N4O3
